US08008283B2
Bumetanide (1.2 g, 3.29 mmol) was dissolved in dimethylformamide (DMF, 10 mL) and chloromethyl pivalate (575 uL, 3.9 mmol) was added followed by triethylamine (0.70 mL) and sodium iodide (545 mg, 3.6 mmol). The reaction was heated to 50° C. for 10 hours, at which time TLC and LC/MS indicated the reaction was complete. The solvent was removed under reduced pressure and the residue was dissolved in ethyl acetate and washed with saturated sodium bicarbonate, water and brine, and dried over anhydrous magnesium sulfate. The ethyl acetate was removed under reduced pressure and the product was purified via flash chromatography to yield 653 mg (60%) of pure t-butylcarbonyloxymethyl 3-aminosulfonyl-5-butylamino-4-phenoxybenzoate.

reactant | Bumetanide | 3.29 mmol, 1.2 g | CCCCNC=1C=C(C=C(C1OC=2C=CC=CC2)S(=O)(=O)N)C(=O)O | C17H20N2O5S
reactant | chloromethyl pivalate | 3.9 mmol, 575 uL | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
reactant | triethylamine | 0.70 mL | C(C)N(CC)CC | C6H15N
reactant | sodium iodide | 3.6 mmol, 545 mg | [I-].[Na+]
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | t-butylcarbonyloxymethyl 3-aminosulfonyl-5-butylamino-4-phenoxybenzoate | 653 mg, 60% | NS(=O)(=O)C=1C=C(C(=O)OCOC(=O)C(C)(C)C)C=C(C1OC1=CC=CC=C1)NCCCC | C23H30N2O7S
